US06610723B2
3-(3-Chloro-4-methyl-phenyl)-5-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride (1:1)
The title compound, MS: m/e=298.3 (M+H+) was obtained as a beige solid (78% yield) by the reaction of 3-bromo-5-(2-methyl-imidazol-1-yl-methyl)-pyridine with 2-(3-chloro-4-methyl-phenyl)-4,4,5,5-tetramethyl [1,3,2]-dioxaborolane.

reactant | 3-bromo-5-(2-methyl-imidazol-1-yl-methyl)-pyridine | BrC=1C=NC=C(C1)CN1C(=NC=C1)C | C10H10BrN3
reactant | 2-(3-chloro-4-methyl-phenyl)-4,4,5,5-tetramethyl [1,3,2]-dioxaborolane | ClC=1C=C(C=CC1C)B1OC(C(O1)(C)C)(C)C | C13H18BClO2
product | 3-(3-Chloro-4-methyl-phenyl)-5-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride | Cl.ClC=1C=C(C=CC1C)C=1C=NC=C(C1)CN1C(=NC=C1)C | InChI=1S/C17H16ClN3.ClH/c1-12-3-4-15(8-17(12)18)16-7-14(9-19-10-16)11-21-6-5-20-13(21)2;/h3-10H,11H2,1-2H3;1H
